US08293746B2
Step 23.1: (4-Ethyl-piperazin-1-yl)-[4-(6-methylamino-pyrimidin-4-ylamino)-phenyl]-methanone
Propylphosphonic anhydride (50% in DMF, 2.72 mL, 4.7 mmol, 2 equiv) is added to a solution of 4-(6-methylamino-pyrimidin-4-ylamino)-benzoic acid (0.570 g, 2.33 mmol), N-ethyl-piperazine (0.33 mL, 2.57 mmol, 1.1 equiv), DMAP (7 mg), and Et3N (3.3 mL, 23.3 mmol, 10 equiv) in DMF (25 mL), at RT and under an argon atmosphere. The reaction mixture is stirred at RT for 1 h, diluted with EtOAc and washed with H2O. The aqueous layer is extracted with EtOAc. The combined organic phase is washed with brine, dried (Na2SO4), filtered and concentrated. The residue is purified by silica gel column chromatography (DCM→DCM/2 N NH3 in MeOH, 86:14) to provide the title compound as a yellow foam: ES-MS: 341.2 [MH]+; tR=1.00 min (system 1); Rf=0.33 (CH2Cl2/2 N NH3 in MeOH, 9:1).

reactant | Propylphosphonic anhydride | 4.7 mmol, 2.72 mL, 2 equiv | CCCP(=O)=O | C3H7O2P
reactant | 4-(6-methylamino-pyrimidin-4-ylamino)-benzoic acid | 2.33 mmol, 0.570 g | CNC1=CC(=NC=N1)NC1=CC=C(C(=O)O)C=C1 | C12H12N4O2
reactant | N-ethyl-piperazine | 2.57 mmol, 0.33 mL, 1.1 equiv | C(C)N1CCNCC1 | C6H14N2
reactant | Et3N | 23.3 mmol, 3.3 mL, 10 equiv | CCN(CC)CC | C6H15N
catalyst | DMAP | 7 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (4-Ethyl-piperazin-1-yl)-[4-(6-methylamino-pyrimidin-4-ylamino)-phenyl]-methanone | C(C)N1CCN(CC1)C(=O)C1=CC=C(C=C1)NC1=NC=NC(=C1)NC | C18H24N6O
